US07253286B2
2-[(Cyclopropylmethyl)aminocarbonyl]-4-(4-nitrophenoxy)pyridine
4-Chloro-2-[(cyclopropylmethyl)aminocarbonyl]pyridine (1.5 g), p-nitrophenol (2.0 g), Hunig's base (3.1 ml) and 1-methyl-2-pyrrolidinone (6.2 ml) were stirred together at 160° C. for 3 hours. Water was added, extraction was performed with ethyl acetate, and the solvent was distilled off under reduced pressure. The residue was purified by column chromatography (hexane:ethyl acetate=4:1, followed by 2:1) using NH type silica gel to obtain 0.35 g of the target substance as a colorless oil.

reactant | 4-Chloro-2-[(cyclopropylmethyl)aminocarbonyl]pyridine | 1.5 g | ClC1=CC(=NC=C1)C(=O)NCC1CC1 | C10H11ClN2O
reactant | p-nitrophenol | 2.0 g | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | Hunig's base | 3.1 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-methyl-2-pyrrolidinone | 6.2 ml | CN1C(CCC1)=O | C5H9NO
solvent | Water | O | H2O
product | 2-[(Cyclopropylmethyl)aminocarbonyl]-4-(4-nitrophenoxy)pyridine | C1(CC1)CNC(=O)C1=NC=CC(=C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C16H15N3O4
